US07465731B2
A solution of benzyl 4-methyl-2-(methylthio)-5-pyrimidinecarboxylate (3.6 g) and m-chloroperbenzoic acid (P=75%) (2.72 g) in AcOEt (30 ml) was stirred at ambient temperature for 2 hours. The reaction mixture was poured into a mixture of AcOEt and H2O and the organic layer was washed with saturated NaHCO3 solution, brine and dried over MgSO4. The solvent was evaporated in vacuo to give benzyl 4-methyl-2-(methylsulfinyl)-5-pyrimidinecarboxylate (3.2 g)

reactant | benzyl 4-methyl-2-(methylthio)-5-pyrimidinecarboxylate | 3.6 g | CC1=NC(=NC=C1C(=O)OCC1=CC=CC=C1)SC | C14H14N2O2S
reactant | m-chloroperbenzoic acid | 2.72 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | H2O | O | H2O
solvent | AcOEt | 30 ml | CCOC(=O)C | C4H8O2
product | benzyl 4-methyl-2-(methylsulfinyl)-5-pyrimidinecarboxylate | 3.2 g | CC1=NC(=NC=C1C(=O)OCC1=CC=CC=C1)S(=O)C | C14H14N2O3S
